US08026257B2
(±)-1-Cyclopropyl-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-5-methyl-1H-indazole.
(±)-tert-Butyl 4-((1-(1-cyclopropyl-5-methyl-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate (10 mg, 0.02 mmol) was dissolved in trifluoroacetic acid (50% in dichloromethane, 1 mL) and stirred at room temperature for 1 h. The reaction was concentrated, loaded onto a strong cation exchange cartridge in methanol, and flushed with several volumes of methanol which were discarded. The crude secondary amine was eluted in 2 M ammonia in methanol and concentrated. The resulting residue was dissolved in acetonitrile (1 mL), cooled to 0° C., and treated with sodium cyanoborohydride (6.2 mg, 0.1 mmol) and formalin (54 μL). After 5 min, the reaction was treated with a few drops of acetic acid. The ice bath was removed and stirring continued for 1 h. The reaction was concentrated and purified by flash chromatography on silica gel (10% methanolic ammonia/methylene chloride) to afford 3 mg (36%) as a clear oil. LC/MS (HPLC method 1): tR=2.46 min, 422.37(MH)+.

reactant | (±)-tert-Butyl 4-((1-(1-cyclopropyl-5-methyl-1H-indazol-7-yl)ethoxy)methyl)-4-(4-fluorophenyl)piperidine-1-carboxylate | 0.02 mmol, 10 mg | C1(CC1)N1N=CC2=CC(=CC(=C12)C(C)OCC1(CCN(CC1)C(=O)OC(C)(C)C)C1=CC=C(C=C1)F)C | C30H38FN3O3
reactant | sodium cyanoborohydride | 0.1 mmol, 6.2 mg | C(#N)[BH3-].[Na+]
reactant | formalin | 54 μL | C=O | CH2O
solvent | trifluoroacetic acid | 1 mL | FC(C(=O)O)(F)F | C2HF3O2
catalyst | acetic acid | a few drops | C(C)(=O)O | C2H4O2
product | (±)-1-Cyclopropyl-7-(1-((4-(4-fluorophenyl)-1-methylpiperidin-4-yl)methoxy)ethyl)-5-methyl-1H-indazole | C1(CC1)N1N=CC2=CC(=CC(=C12)C(C)OCC1(CCN(CC1)C)C1=CC=C(C=C1)F)C | C26H32FN3O
